US09255097B2
Preparation 19A: {1-[5-cyano-4-(4-cyano-3-fluoro-phenyl)-1-methyl-6-oxo-1,6-dihydro-pyrimidin-2-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester
A mixture of {1-[5-chloro-4-(4-cyano-3-fluoro-phenyl)-1-methyl-6-oxo-1,6-dihydro-pyrimidin-2-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester (460 mg, 1 mmol), Zn(CN)2 (175 mg, 1.5 mmol) and Pd(PPh3)4 (116 mg, 0.0.1 mmol) in DMF (5 mL) was stirred for 4 h at 150° C. under N2 atmosphere. The reaction mixture was cooled to RT and filtered. The filtrate was concentrated in vacuo, and the residue was purified by preparative HPLC to give 150 mg of the title product as a yellow solid (33%). [M+H] Calc'd for C23H25FN6O3, 453. Found, 453.

reactant | {1-[5-chloro-4-(4-cyano-3-fluoro-phenyl)-1-methyl-6-oxo-1,6-dihydro-pyrimidin-2-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester | 1 mmol, 460 mg | C(C)(C)(C)OC(NC1CCN(CC1)C=1N(C(C(=C(N1)C1=CC(=C(C=C1)C#N)F)Cl)=O)C)=O | C22H25ClFN5O3
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 1.5 mmol, 175 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 116 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | {1-[5-cyano-4-(4-cyano-3-fluoro-phenyl)-1-methyl-6-oxo-1,6-dihydro-pyrimidin-2-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester | 150 mg, 33% | C(C)(C)(C)OC(NC1CCN(CC1)C=1N(C(C(=C(N1)C1=CC(=C(C=C1)C#N)F)C#N)=O)C)=O | C23H25FN6O3
